US05041436
Stage A: 1-Azacyclooctylbenzene
4.3 g of sodium amide at a concentration of 50% in toluene, suspended in 18.9 cm3 (equivalent to 16.9 g) of heptamethylenamine, are heated to 100° C. for 20 minutes, and 7.85 g (equivalent to 5.03 cm3) of bromobenzene are then added dropwise. The reaction medium is heated to reflux for 18 hours and cooled to room temperature, and 50 cm3 of water are added. 100 cm3 of benzene are added, the organic phase is separated, extracted using 5% strength aqueous hydrochloric acid solution and alkalinized using 20% strength aqueous sodium hydroxide solution, the oil phase is separated, extracted with ethyl ether and dried and the solvent is evaporated off. After distillation of the residue (b.p. 118°-120° C. at 0.5 mm Hg), 9.4 g of expected product are obtained.

reactant | sodium amide | 4.3 g | [NH2-].[Na+]
reactant | bromobenzene | 5.03 cm3, 7.85 g | BrC1=CC=CC=C1 | C6H5Br
reactant | water | 50 cm3 | O | H2O
reactant | benzene | 100 cm3 | C1=CC=CC=C1 | C6H6
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-Azacyclooctylbenzene | N1(CCCCCCC1)C1=CC=CC=C1 | C13H19N
